US07173033B2
A mixture of 6-azocan-1-yl-3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (360 mg), sodium methoxide (570 mg) and toluene (20 ml) was stirred with heating under reflux for 3 hours. After allowing to cool to room temperature, the reaction solution was concentrated under reduced pressure, and the resultant residue was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resultant crude crystal was washed with diethyl ether to obtain 6-azocan-1-yl-3-(6-methoxypyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (290 mg) as pale yellow crystals.

reactant | 6-azocan-1-yl-3-(6-chloropyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 360 mg | N1(CCCCCCC1)C=1C=CC=2N(N1)C(=NN2)C2=NC(=CC=C2)Cl | C17H19ClN6
reactant | sodium methoxide | 570 mg | C[O-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-azocan-1-yl-3-(6-methoxypyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 290 mg | N1(CCCCCCC1)C=1C=CC=2N(N1)C(=NN2)C2=NC(=CC=C2)OC | C18H22N6O
